US07507733B2
3-Chloro-2-methyl-N-(2-methyl-pyrimidin-4-yl)-benzenesulfonamide
2-Methyl-pyrimidin-4-ylamine (91 mg, Gabriel, Chem. Ber. 37, 1904, 3641) and 3-chloro-2-methyl-benzenesulfonyl chloride (179 mg) were dissolved in pyridine (5 mL) and the resulting mixture was allowed to stir at 50 to 60° C. for 48 hours. The mixture was then evaporated in vacuo and the residue was dissolved in ethyl acetate. The solution was washed with 1M CuSO4 solution twice, dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography (CH2Cl2MeOH/NH3 90:10:0.5) to give the desired product 3-chloro-2-methyl-N-(2-methyl-pyrimidin-4-yl)-benzenesulfonamide as a yellow powder (22 mg). MS (ESI−): 297.1 ([M−H]−).

reactant | 2-Methyl-pyrimidin-4-ylamine | 91 mg | CC1=NC=CC(=N1)N | C5H7N3
reactant | 3-chloro-2-methyl-benzenesulfonyl chloride | 179 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 3-chloro-2-methyl-N-(2-methyl-pyrimidin-4-yl)-benzenesulfonamide | 22 mg | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=NC(=NC=C1)C)C | C12H12ClN3O2S
